US07470699B2
Preparation of 4-[6-(6-Chloro-2-methyl-pyridin-3-yloxy)-5-methyl-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (Compound C65)
A mixture of 4-(6-chloro-5-methyl-pyrimidin-4-yloxy)-piperidine-1-carboxylic acid isopropyl ester (1.03 g, 3.27 mmol), 6-chloro-2-methyl-pyridin-3-ol (470 mg, 3.27 mmol), and potassium carbonate (903 mg, 6.53 mmol) in 15 mL DMF were heated in microwave for 1 hour at 150° C. The mixture was purified to give Compound C65 as a white solid (0.975 g, 71%). 1H NMR (CDCl3, 400 MHz) δ 0.92-0.94 (d, 6H), 1.74-1.82 (m, 2H), 1.95-2.02 (m, 2H), 2.19 (s, 3H), 2.47 (s, 3H), 3.39-3.45 (m, 2H), 3.74-3.79 (m, 2H), 4.91-4.97 (m, 1H), 5.33-5.36 (m, 1H), 7.21-7.23 (d, 1H), 7.36-7.38 (d, 1H), 8.19 (s, 1H). Exact mass calculated for C20H25ClN4O4 420.16, found 421.3 (MH+).

reactant | 4-(6-chloro-5-methyl-pyrimidin-4-yloxy)-piperidine-1-carboxylic acid isopropyl ester | 3.27 mmol, 1.03 g | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C)Cl | C14H20ClN3O3
reactant | 6-chloro-2-methyl-pyridin-3-ol | 3.27 mmol, 470 mg | ClC1=CC=C(C(=N1)C)O | C6H6ClNO
reactant | potassium carbonate | 6.53 mmol, 903 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-[6-(6-Chloro-2-methyl-pyridin-3-yloxy)-5-methyl-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 0.975 g, 71% | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C)OC=1C(=NC(=CC1)Cl)C | C20H25ClN4O4
